US05229519
To a three necked, 100-mL round bottom equipped with a reflux condenser, gas inlet tube and a thermometer was charged 50 mL of N,N-dimethylformamide. Phosphorous pentachloride (2.3 g, 11 mmol) was added in several portions and anhydrous hydrogen chloride was introduced slowly. The reaction temperature was kept around 60° C.-85° C. by means of a water bath. 2-Chloro-2-chloromethyl-4-cyanobutyraldehyde in 5 mL of DMF was added at 80° C., through a syringe pump within a period of 1 h. The resulting mixture was then heated to 100° C. under stirring for 8 h, quenched with water, neutralized using NaHCO3 to a pH of 5, extracted with methylene chloride, dried over MgSO4, and concentrated and distilled to give 0.5 g of 2-chloro-5-chloromethylpyridine. Purity by GLC analysis was 95%.

reactant | Phosphorous pentachloride | 11 mmol, 2.3 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | hydrogen chloride | Cl | ClH
reactant | 2-Chloro-2-chloromethyl-4-cyanobutyraldehyde | ClC(C=O)(CCC#N)CCl | C6H7Cl2NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2-chloro-5-chloromethylpyridine | 0.5 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
